### PR TITLE
Feat: Auto-generate inst-combine files to lean

### PR DESCRIPTION
**Pull request by AtticusKuhn**
I auto-generated lean files from the InstCombine benchmark in LLVM. The ultimate goal is to turn these files into bitvector theorems for Henrik.

These tests come from the LLVM repo, specifically
https://github.com/llvm/llvm-project/tree/main/llvm/test/Transforms/InstCombine

I then used `mlir-opt` to optimize these test cases and embedded them in Lean to extract the relevant theorems behind those optimizations. See the SSA/Projects/InstCombine/scripts` directory for the scripts that I used to do this.

### CODE REVIEW

**Comment by AtticusKuhn** [comment]
I set a whitelist of allowed operations. This cut the number of files down to 160.

This is the list of whitelisted operations:

1.     "llvm.return",
2.     "llvm.mul",
3.     "llvm.add",
4.     "llvm.sub",
5.     "llvm.shl",
6.     "llvm.and",
7.     "llvm.or",
8.     "llvm.xor",
9.     "llvm.mlir.constant",
10.     "llvm.icmp"

**Comment by tobiasgrosser** [comment]
Nice. Can we already parse the files?

**Comment by AtticusKuhn** [comment]
> Nice. Can we already parse the files?

The 
```
[llvm|
...
]
```

Syntax macro cannot parse it yet. I think this is because the macro does not support the full MLIR standard. Here are the specific discrepancies between `llvm` and the standard

1. `llvm` does not allow digit block labels, but the standard does:  [Identifiers and keywords](https://mlir.llvm.org/docs/LangRef/#identifiers-and-keywords)
2. `llvm` does not support carets around properties, but the standard does: [Properties ](https://mlir.llvm.org/docs/LangRef/#properties)
3. `llvm` does not support the syntax of `llvm.icmp`, only an enumeration of `llvm.icmp.eq, llvm.icmp.slt, ...`

**Comment by AtticusKuhn** [comment]
For future reference, here is the script that was used to generate the files:


```py
#!/usr/bin/env python3
from xdsl.dialects.builtin import ModuleOp
from xdsl.dialects.llvm import LLVM
from xdsl.utils.exceptions import ParseError
from xdsl.context import MLContext
from xdsl.dialects import get_all_dialects
from xdsl.dialects.llvm import FuncOp
from xdsl.parser import Parser
from xdsl.printer import Printer
from xdsl.dialects.builtin import (
    Builtin,
    IndexType,
    IntegerAttr,
    IntegerType,
    ModuleOp,
    StringAttr,
    i32,
    i64,
)
import os
import io
from pathlib import Path
from xdsl.printer import Printer
# Initialize the MLIR context and register the LLVM dialect
ctx = MLContext(allow_unregistered = True)
ctx.load_dialect(LLVM)
ctx.load_dialect(Builtin)

directory = os.fsencode("../vcombined-mlir")


allowed_names = {
    "llvm.return",
    "llvm.mul",
    "llvm.add",
    "llvm.sub",
    "llvm.shl",
    "llvm.and",
    "llvm.or",
    "llvm.xor",
    "llvm.mlir.constant",
}
allowed_unregistered = {
    "llvm.icmp"
}
def allowed(op):
        return hasattr(op, "sym_name") or (op.name== "builtin.unregistered" and op.op_name.data in allowed_unregistered)  or (op.name in allowed_names)
def show(block):
        output = io.StringIO()
        p = Printer(stream = output)
        block.print(p)
        contents = output.getvalue()
        output.close()
        return contents
def showr(region):
        output = io.StringIO()
        p = Printer(stream = output)
        p.print_region(region)
        contents = output.getvalue()
        output.close()
        return contents
def size(func):
        s = 0
        for _ in func.walk():
                s +=1
        return s
for file in os.listdir(directory):
        filename = os.fsdecode(file)
        print(filename)
        stem = filename.split(".")[0]
        output = ""
        with open(os.path.join("../vcombined-mlir", filename), "r") as f1:
                with open(os.path.join("../vbefore-mlir", filename), "r") as f2:
                        data = f1.read()
                        data2 = f2.read()
                        parser = Parser(ctx, data)
                        try:
                                module = parser.parse_module()
                                parser2 = Parser(ctx, data2)
                                module2 = parser2.parse_module()
                                funcs = [
                                        func
                                        for func
                                        in module.walk()
                                        if isinstance(func, FuncOp)
                                        and all(allowed(o) for o in func.walk())
                                        and size(func) > 1
                                ]
                                for func in funcs:
                                        try:
                                                other = next(f for f in module2.walk() if isinstance(f, FuncOp) and f.sym_name == func.sym_name)
                                                if all(allowed(o) for o in other.walk()):
                                                        print(f"-----{filename}.{func.sym_name}-----")
                                                        s1 = showr(func.body)
                                                        s2 = showr(other.body)
                                                        name = func.sym_name.data
                                                        if s1 == s2:
                                                            continue
                                                        o1 = f"""
def {name}_before := [llvm|
{s2}
]
def {name}_after := [llvm|
{s1}
]
theorem {name}_proof : {name}_before ⊑ {name}_after := by
  sorry\n\n\n"""
                                                        print(o1)
                                                        with open(os.path.join("../lean-mlir" , "SSA", "Projects", "InstCombine", "lean", f"{stem}.lean"), 'a+') as f3:
                                                                f3.write(o1)

                                        except StopIteration as e:
                                            print(f"cannot find {func.sym_name} in {filename}")
                        except ParseError as e:
                               print("failed to parse")
```

**Comment by tobiasgrosser** [comment]
Would it make sense to commit this script into the repo?

**Comment by AtticusKuhn** [comment]
I generated the lean files. Most of them look good to me (a few files failed to build)

**Comment by AtticusKuhn** [comment]
By the way, it took about 1 hour to generate the lean files, so there might he room for optimizations.

**Comment by AtticusKuhn** [comment]
I have built all the auto-generated files, and I can confirm that they all build successfully. The only exception is the following files:

```
Some builds logged failures:
- SSA.Projects.InstComine.lean.gand_proof
- SSA.Projects.InstCombine.lean.gand
- SSA.Projects.InstCombine.lean.g2004h02h23hShiftShiftOverflow
- SSA.Projects.InstCombine.lean.glowhbithsplat
- SSA.Projects.InstCombine.lean.gdemand_shrink_nsw
- SSA.Projects.InstCombine.lean.gshifthsra
- SSA.Projects.InstCombine.lean.gshifthadd
- SSA.Projects.InstCombine.lean.gsignext
- SSA.Projects.InstCombine.lean.gpullhbinophthroughhshift
- SSA.Projects.InstCombine.lean.gshifthlogic
- SSA.Projects.InstCombine.lean.gmul_fold
- SSA.Projects.InstCombine.lean.gshlhsub
- SSA.Projects.InstCombine.lean.gapinthadd
- SSA.Projects.InstCombine.lean.gapinthshift
- SSA.Projects.InstCombine.lean.gcanonicalizehshlhlshrhtohmasking
- SSA.Projects.InstCombine.lean.gshifthamounthreassociation
- SSA.Projects.InstCombine.lean.gandhxorhor
```

Which do not build because of the cryptic and strange error:
```
(kernel) deep recursion detected
```

I do not know what this error means, so I will just ignore it.

Other than that, I believe that these theorems are ready to send over to Henrik.

File: SSA/Projects/InstCombine/lean/g2004h02h23hShiftShiftOverflow_proof.lean [hunk 1]
```diff
@@ -0,0 +1,18 @@
+
+import SSA.Projects.InstCombine.LLVM.PrettyEDSL
+import SSA.Projects.InstCombine.TacticAuto
+import SSA.Projects.InstCombine.LLVM.Semantics
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/lean/g2004h02h23hShiftShiftOverflow_proof.lean]:
```suggestion
```

These includes are not needed in this file as we purely work on BitVec. Drop these, as Henrik will also not have these includes.

File: SSA/Projects/InstCombine/lean/g2004h02h23hShiftShiftOverflow_proof.lean [hunk 2]
```diff
@@ -0,0 +1,18 @@
...
+import Batteries.Data.BitVec
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/lean/g2004h02h23hShiftShiftOverflow_proof.lean]: You do not need to include Batteries. BitVec is all in Lean itself.

File: SSA/Projects/InstCombine/lean/g2004h02h23hShiftShiftOverflow_proof.lean [hunk 3]
```diff
@@ -0,0 +1,18 @@
...
+
+open LLVM
+open BitVec
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/lean/g2004h02h23hShiftShiftOverflow_proof.lean]:
```suggestion
open LLVM
```

Drop.

File: SSA/Projects/InstCombine/lean/g2004h02h23hShiftShiftOverflow_proof.lean [hunk 4]
```diff
@@ -0,0 +1,18 @@
...
+
+
+
+open MLIR AST
+open Std (BitVec)
+open Ctxt (Var)
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/lean/g2004h02h23hShiftShiftOverflow_proof.lean]:
```suggestion
open Std (BitVec)
```

Drop

File: SSA/Projects/InstCombine/lean/g2004h11h22hMissedhandhfold.lean [hunk 5]
```diff
@@ -0,0 +1,51 @@
...
+
+open MLIR AST
+open Std (BitVec)
+open Ctxt (Var)
+
+set_option pp.proofs false
+set_option pp.proofs.withType false
+set_option linter.deprecated false
+set_option linter.unreachableTactic false
+set_option linter.unusedTactic false
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/lean/g2004h11h22hMissedhandhfold.lean]:
```suggestion
```

Do we need these options?

File: SSA/Projects/InstCombine/lean/g2004h11h22hMissedhandhfold.lean [hunk 6]
```diff
@@ -0,0 +1,51 @@
+import SSA.Projects.InstCombine.lean.g2004h11h22hMissedhandhfold_proof
+import SSA.Projects.InstCombine.LLVM.PrettyEDSL
+import SSA.Projects.InstCombine.TacticAuto
+import SSA.Projects.InstCombine.LLVM.Semantics
+import Batteries.Data.BitVec
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/lean/g2004h11h22hMissedhandhfold.lean]: We do not need batteries here. This likely can be dropped in a separate commit for AliveStatements as well.

File: SSA/Projects/InstCombine/lean/g2004h11h22hMissedhandhfold.lean (hunk 5 above)
Comment (AtticusKuhn) [reply SSA/Projects/InstCombine/lean/g2004h11h22hMissedhandhfold.lean]: I don't know what these options do. They were in `AliveStatements`, so I just copied them over for the sake of consistency with `AliveStatements`.

Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/lean/g2004h11h22hMissedhandhfold.lean]: I see. We may want to explore if these can be deleted without leading to new warnings. You can likely already delete the first two, which are plain debug options.

**Comment by tobiasgrosser** [comment]
I removed some of the unused statements in: https://github.com/opencompl/lean-mlir/pull/461.

File: README.md [hunk 7]
```diff
@@ -15,7 +15,10 @@ Theory of static single assignment developed in the Lean proof assistant.
 We also build a wealth of tooling to interact closely with the [MLIR compiler ecosystem](https://mlir.llvm.org/),
 to enable workflows that include formal verification in the day-to-day of MLIR development.
 
-- [Link to generated documentation](https://opencompl.github.io/lean-mlir/)
+#### Documentation
+
+- **Publication: [Verifying Peephole Rewriting In SSA Compiler IRs](https://arxiv.org/abs/2407.03685)**
+- [API Documentation (auto-generated)](https://opencompl.github.io/lean-mlir/)
```
Comment (tobiasgrosser) [inline README.md]: You seem to be on an older branch. Can you `git merge origin/main` to remove these differences?

File: SSA/Projects/InstCombine/AliveAutoGenerated.lean [hunk 8]
```diff
@@ -34,6 +34,7 @@ set_option linter.deprecated false
   %r = sub %RHS, %or
 
 -/
+
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/AliveAutoGenerated.lean]: This is an unrelated change that currently breaks CI. Could you drop it?

File: SSA/Projects/InstCombine/AliveStatements.lean [hunk 9]
```diff
@@ -707,7 +707,6 @@ theorem bitvec_820 :
   simp_alive_case_bash
   try alive_auto
   all_goals sorry
-
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/AliveStatements.lean]: This is an unrelated change that is currently breaking CI. Can you drop it?

File: SSA/Projects/InstCombine/ForLean.lean [hunk 10]
```diff
@@ -37,19 +37,19 @@ lemma two_pow_pred_mod_eq_two_pred (h : w > 0): 2 ^ (w - 1) % 2 ^ w = 2 ^ (w - 1
...
 
-def ushr_and_distrib (a b c : BitVec w) :
+lemma ushr_and_distrib (a b c : BitVec w) :
     (a &&& b) >>> c = (a >>> c) &&& (b >>> c) := by
   simp only [HShiftRight.hShiftRight]
   ext
   simp
 
-def ushr_or_distrib (a b c : BitVec w) :
+lemma ushr_or_distrib (a b c : BitVec w) :
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForLean.lean]: These changes should disappear if you `git merge origin/main`.

File: SSA/Projects/InstCombine/TacticAuto.lean [hunk 11]
```diff
@@ -140,12 +144,13 @@ macro "of_bool_tactic" : tactic =>
...
+      -- | simp only [BitVec.toNat_eq]
       )
       try omega
     )
   )
 
+
 macro "alive_auto": tactic =>
   `(tactic|
       (
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/TacticAuto.lean]: The changes to this file are unrelated and should be removed.

File: SSA/Projects/InstCombine/lean/g2004h02h23hShiftShiftOverflow.lean [hunk 12]
```diff
@@ -0,0 +1,79 @@
+import SSA.Projects.InstCombine.lean.g2004h02h23hShiftShiftOverflow_proof
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/lean/g2004h02h23hShiftShiftOverflow.lean]: Why do you call the new directory `lean`? Would `tests/LLVM` make more sense?

File: SSA/Projects/InstCombine/lean/g2004h11h22hMissedhandhfold_proof.lean [hunk 13]
```diff
@@ -0,0 +1,15 @@
...
+open LLVM
+open BitVec
+
+
+
+open MLIR AST
+open Std (BitVec)
+open Ctxt (Var)
+theorem test21_thm (x : _root_.BitVec 8) : x.sshiftRight 7 &&& 1#8 = x >>> 7 := sorry
+
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/lean/g2004h11h22hMissedhandhfold_proof.lean]:
```suggestion
open Ctxt (Var)
theorem test21_thm (x : _root_.BitVec 8) : 
    x.sshiftRight 7 &&& 1#8 = x >>> 7 := by
  sorry
```
A super minor nitpick, but could this be formatted as laid out above?

File: SSA/Projects/InstCombine/lean/g2004h02h23hShiftShiftOverflow.lean (hunk 12 above)
Comment (AtticusKuhn) [reply SSA/Projects/InstCombine/lean/g2004h02h23hShiftShiftOverflow.lean]: Do you mean that the files should be stored in `SSA/tests/LLVM/*` or in `SSA/Projects/InstCombine/tests/LLVM/*`?

Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/lean/g2004h02h23hShiftShiftOverflow.lean]: SSA/Projects/InstCombine/tests/LLVM/*

File: SSA/Projects/InstCombine/scripts/mlir-tool.py
Comment (bollu) [inline SSA/Projects/InstCombine/scripts/mlir-tool.py:1]: Can @superlopuh review this file? He's the Python style czar in these parts :)

File: SSA/Projects/InstCombine/scripts/types.py [hunk 14]
```diff
@@ -0,0 +1,69 @@
...
+            file.write(thm + '\n')
+def main():
+    directory = './SSA/Projects/InstCombine/test/LLVM'
+    for root, _, files in os.walk(directory):
+        for file in files:
+            if file.endswith('.lean'):  # Assuming the files have a .lean extension
+                file_path = os.path.join(root, file)
+                print(file_path)
+                process_file(file_path)
+
```
Comment (bollu) [inline SSA/Projects/InstCombine/scripts/types.py]:
```suggestion
def main():
    directory = './SSA/Projects/InstCombine/test/LLVM'
    worklist = []
    for root, _, files in os.walk(directory):
        for file in files:
            if file.endswith('.lean'):  # Assuming the files have a .lean extension
                file_path = os.path.join(root, file)
                print(file_path)
                worklist.append(file_path)
    
    with Pool(5) as p:
        p.map(process_file, worklist)
```

Let's try to run these loop iterations in parallel with a multiprocessing pool (https://docs.python.org/3/library/multiprocessing.html). In theory, it should be as easy as follows:

File: SSA/Projects/InstCombine/scripts/mlir-tool.py [hunk 15]
```diff
@@ -0,0 +1,150 @@
...
+        contents = output.getvalue()
+        output.close()
+        return contents
+def showr(region):
+        output = io.StringIO()
+        p = Printer(stream = output)
+        p.print_region(region)
+        contents = output.getvalue()
+        output.close()
+        return contents
```
Comment (superlopuh) [inline SSA/Projects/InstCombine/scripts/mlir-tool.py]: I'd expect str(block) and str(region) to be equivalent, f"{block}" or f"{region}" otherwise

Comment (AtticusKuhn) [reply SSA/Projects/InstCombine/scripts/mlir-tool.py]: In theory, yes. But I tried that and I got


```
Region(num_blocks=1)
```

So we might need to talk to the xDSL people about how this works.

File: SSA/Projects/InstCombine/scripts/types.py (hunk 14 above)
Comment (AtticusKuhn) [reply SSA/Projects/InstCombine/scripts/types.py]: That sounds like a good idea. I've done that in
https://github.com/opencompl/lean-mlir/pull/452/commits/cf6b9059dde5e02347cef4b58c9d370e83908b67

File: SSA/Projects/InstCombine/scripts/mlir-tool.py [hunk 16]
```diff
@@ -0,0 +1,183 @@
...
+    contents = output.getvalue()
+    output.close()
+    return contents
+
+
+def size(func):
+    s = 0
+    for _ in func.walk():
+        s += 1
+    return s
```
Comment (superlopuh) [inline SSA/Projects/InstCombine/scripts/mlir-tool.py]:
```suggestion
    return sum(1 for _ in func.walk())
```

File: SSA/Projects/InstCombine/scripts/mlir-tool.py [hunk 17]
```diff
@@ -0,0 +1,183 @@
...
+
+
+for file in os.listdir(directory):
+    filename = os.fsdecode(file)
+    print(filename)
+    stem = "g" + filename.split(".")[0].replace("-", "h")
+    output = ""
+    with open(os.path.join("../vcombined-mlir", filename), "r") as f1:
+        with open(os.path.join("../vbefore-mlir", filename), "r") as f2:
+            data = f1.read()
```
Comment (superlopuh) [inline SSA/Projects/InstCombine/scripts/mlir-tool.py]: seems like it would be good to be consistent with bla1 and bla2 everywhere
```suggestion
            data1 = f1.read()
```

File: SSA/Projects/InstCombine/scripts/mlir-tool.py [hunk 18]
```diff
@@ -0,0 +1,183 @@
...
+    print(filename)
+    stem = "g" + filename.split(".")[0].replace("-", "h")
+    output = ""
+    data1 = read_file(os.path.join("../vcombined-mlir"))
+    data2 = read_file(os.path.join("../vbefore-mlir"))
+    parser = Parser(ctx, data1)
+    try:
+        module = parser.parse_module()
+        parser2 = Parser(ctx, data2)
+        module2 = parser2.parse_module()
```
Comment (superlopuh) [inline SSA/Projects/InstCombine/scripts/mlir-tool.py]:
```suggestion
    with open(os.path.join("../vcombined-mlir"))) as f1:
        module1 = Parser(ctx, f1).parse_module()
    with open(os.path.join("../vbefore-mlir"))) as f2:
        module2 = Parser(ctx, f2).parse_module()
    try:
```

Comment (AtticusKuhn) [reply SSA/Projects/InstCombine/scripts/mlir-tool.py]: It seems that xDSL Parser needs a string, not a file

https://github.com/xdslproject/xdsl/blob/9b43500e6526196b31b5a27a413af9475c1b71e0/xdsl/parser/core.py#L91C5-L102C1

File: SSA/Projects/InstCombine/scripts/mlir-tool.py (hunk 15 above)
Comment (superlopuh) [reply SSA/Projects/InstCombine/scripts/mlir-tool.py]: It would be great to add these if you have the motivation

File: SSA/Projects/InstCombine/scripts/mlir-tool.py (hunk 18 above)
Comment (superlopuh) [reply SSA/Projects/InstCombine/scripts/mlir-tool.py]: Then can you read in the with block, please?

File: SSA/Projects/InstCombine/scripts/mlir-tool.py [hunk 19]
```diff
@@ -0,0 +1,183 @@
...
+                                                                """
+                            )
+                        f3.write(o1)
+
+            except StopIteration as e:
+                print(
+                    f"Cannot find a function named {func.sym_name} in file {filename}"
+                )
+    except ParseError as e:
+        print("failed to parse the file")
```
Comment (superlopuh) [inline SSA/Projects/InstCombine/scripts/mlir-tool.py]: It's good practice to make the try/catch code close to each other, here the only place it could throw is in the first few lines, might as well dedent after that and do the loop below the except

File: SSA/Projects/InstCombine/scripts/mlir-tool.py (hunk 18 above)
Comment (AtticusKuhn) [reply SSA/Projects/InstCombine/scripts/mlir-tool.py]: > Then can you read in the with block, please?


What do you mean by this?

File: SSA/Projects/InstCombine/scripts/mlir-tool.py [hunk 20]
```diff
@@ -0,0 +1,183 @@
...
+            and size(func) > 1
+        ]
+        for func in funcs:
+            try:
+                other = next(
+                    f
+                    for f in module2.walk()
+                    if isinstance(f, FuncOp) and f.sym_name == func.sym_name
+                )
+                if all(allowed(o) for o in other.walk()):
```
Comment (superlopuh) [inline SSA/Projects/InstCombine/scripts/mlir-tool.py]: I would recommend caching these and accessing in O(1) outside the loop:
```suggestion
funcs2 = {
    f.sym_name: f
    for f in module2.walk()
    if isinstance(f, FuncOp)
    if f.sym_name == func.sym_name
    if all(allowed(o) for o in other.walk())
}
```

File: SSA/Projects/InstCombine/scripts/mlir-tool.py [hunk 21]
```diff
@@ -0,0 +1,183 @@
...
+    print(filename)
+    stem = "g" + filename.split(".")[0].replace("-", "h")
+    output = ""
+    data1 = read_file(os.path.join("../vcombined-mlir"))
+    data2 = read_file(os.path.join("../vbefore-mlir"))
+    parser1 = Parser(ctx, data1)
+    try:
+        module1 = parser1.parse_module()
+        parser2 = Parser(ctx, data2)
+        module2 = parser2.parse_module()
```
Comment (superlopuh) [inline SSA/Projects/InstCombine/scripts/mlir-tool.py]:
```suggestion
    try:
        with open(os.path.join("../vcombined-mlir"))) as f1:
            module1 = Parser(ctx, f1.read()).parse_module()
        with open(os.path.join("../vbefore-mlir"))) as f2:
            module2 = Parser(ctx, f2.read()).parse_module()
    except ParseError as e:
        print("failed to parse the file")
```

Comment (superlopuh) [reply SSA/Projects/InstCombine/scripts/mlir-tool.py]: As a reply to the older thread :)

**Review by superlopuh — COMMENTED** [review]
LGTM

**Comment by AtticusKuhn** [comment]
> LGTM

Great, thank you for your feedback.

**Comment by bollu** [comment]
@AtticusKuhn @tobiasgrosser , does it make sense to have a follow-up PR that runs regenerates these files in the CI? We do this already for alive: https://github.com/opencompl/lean-mlir/blob/main/.github/workflows/ci-tools.yml#L51-L56

@AtticusKuhn if you'd like to take a shot at doing this for these tests as well, that'd be super cool I feel!
